2187-01-12 09:09:00 Physician Attending Progress Note
Chief Complaint: Sepsis/confusion/hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80[**Hospital **] nursing home resident admitted with hypotension, confusion,
   bradycardia.  She has a history of DM, frequent UTI, dementia;
   yesterday found to be somnolent and unresponsive (at baseline alert,
   conversant, agitated).  She was bradycardic with HR 30-40's and
   subsequent hypotension with SBP 70's.  Started on peripheral dopamine
   and transferred to [**Hospital1 1**].
   24 Hour Events:
   Admitted overnight; dosed with glucagon IV with improvement in HR but
   no change in BP.  Attempts to wean dopamine met with worsened
   hypotension.  Central line and arterial line placed; switched from
   dopamine to levophed/vasopressin.  Had worsening mental status with
   concern for protecting her airway so she was intubated.  Pressor
   requirement increased after intubation.
   CvO2 82%, Lactate 1.3.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2187-1-12**] 12:56 AM
   Vancomycin - [**2187-1-12**] 03:56 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2187-1-12**] 07:00 AM
   Fentanyl - [**2187-1-12**] 07:00 AM
   Other medications:
   heparin prophylaxis
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-12**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 72 (47 - 89) bpm
   BP: 99/49(68) {99/49(68) - 130/67(93)} mmHg
   RR: 20 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (9 - 13)mmHg
   Mixed Venous O2% Sat: 83 - 83
                                Total In:
                                                                      1 mL
                                                                  2,408 mL
   PO:
                                TF:
   IVF:
                                                                      1 mL
                                                                  2,408 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    470 mL
   Urine:
   170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                  1,938 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/37/98.[**Numeric Identifier 500**]/22/-6
   Ve: 6.7 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: Sedated, intubated, ETT in place
   Chest: clear anteriorly
   CV:  Bradycardic, regular
   Abd: s/nt/nd
   Ext: trace edema
   Labs / Radiology
   9.5 g/dL
   172 K/uL
   89 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   30 mg/dL
   116 mEq/L
   146 mEq/L
   31.3 %
   9.3 K/uL
        [image002.jpg]
                            [**2187-1-12**]  12:04 AM
                            [**2187-1-12**]  12:17 AM
                            [**2187-1-12**]  05:57 AM
   WBC
   9.3
   Hct
   31.3
   Plt
   172
   Cr
   0.7
   TropT
   <0.01
   TCO2
   23
   20
   Glucose
   89
   Other labs: PT / PTT / INR:13.6/46.1/1.2, CK / CKMB /
   Troponin-T:61//<0.01, ALT / AST:82/58, Alk Phos / T Bili:100/0.2,
   Differential-Neuts:88.0 %, Lymph:9.2 %, Mono:2.2 %, Eos:0.3 %,
   Fibrinogen:388 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:167
   IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: UA: > 50WBC
   Tox negative, TSH 3.8
   ABG: 7.28/47/69 (2L)
   Microbiology: Blood cultures - pending
   Urine - pending
   Assessment and Plan
   80yoF with dementia, h/o UTIs, DM; admitted with confusion and
   subsequent hypotension in setting of UTI and likely urosepsis.
   1.  Hypotension secondary to sepsis:  Suspect urinary source. Lactate
   normal; normal CvO2. Awaiting repeat CVP.
   -  Plan fluid bolus x 1L and reassess urine output, pressor
   requirement, CVP.
   - Continue levophed/vasopressin; wean levophed as tolerated
   - treatment of infectious processes as below
   - If BP not improving with fluids, can consider cortisol stimulation
   test
   2.  ID:  History of resistant gram-negative urinary tract infection,
   currently vancomycin and cefepime
   -   Given likelyhood of UTI and possible GN bacteremia; will add
   gentamicin once daily dosing while awaiting culture data
   - continue cefipime for resistant gram-negatives
   - Vancomycin with possibility of MRSA and concern for HCAP
   3.  Sinus Bradycardia:  no clear etiology, was on metoprolol at
   baseline.  Cardiac markers negative so far; EKG without ischemia.
   - continue levophed for time being
   - Await additional cardiac markers, but doubt ischemic etiology
   - TTE
   4.  Respiratory Failure:
   - awaiting repeat ABG
   - Can trial change to pressure support and minimize sedation
   - Hope to SBT tomorrow if hemodynamics improving.
   ICU Care
   Nutrition: Tube feeds start today
   Glycemic Control:   Insulin sliding scale
   Lines:
   20 Gauge - [**2187-1-12**] 12:00 AM
   22 Gauge - [**2187-1-12**] 12:30 AM
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:
   VAP: HOB/chlorhexidine/mouthcare
   Communication:  ICU consent signed, family update today
   Code status: Full code
   Disposition : Critically ill
   Total time spent:  45minutes CCT
   ------ Protected Section ------
   Addendum: [**Hospital3 1492**] ED called to inform that urine growing GNR.
   On Vanc/Cefepime/Gent
 has history of quinolone resistant GN UTIs in
   past. Currently on vasopressin and levophed 0.17 mcg/kg/min, MAPs>75,
   urine output low past few hours despite CVP at 12. Remains ventilated
   400x15, 5, 50% with ABG 7.29/40/90.
   Will check ACTH stim test and start SD hydrocortisone. If needed, will
   use Vigileo but unlikely cardiogenic shock. Would keep on Vancomycin
   for time being but can probably d/c in the morning. Need to follow up
   cultures/sensitivities at [**Hospital1 632**] to tailor Abx.
   Additional critical care time
 32 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1512**] [**Last Name (NamePattern1) 1513**], MD
   on:[**2187-1-12**] 16:52 ------

2187-01-13 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2187-1-12**] 10:45 AM
 SPUTUM CULTURE - At [**2187-1-12**] 04:00 PM
 ULTRASOUND - At [**2187-1-12**] 06:30 PM
   Renal US.
   [**Hospital 632**] hosp: GNRs in urine [**Last Name (un) 206**]/spp pending, no h/o CHF
   Insufficient [**Last Name (un) **] stim; started hydrocort
   CEs, TSH ok
   Echo c/w vol o/l
   Poor UOP unresponsive to IVF, albumin; low u osm
   CvO2 sat and Lactate improving
   Renal U/S with perinerphric fluid.  Per radiology: not c/w abscess but
   a common and unconcerning finding.  CT scan is more sensitive.
   Started gent.  check trough at 3rd dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-1-12**] 12:00 PM
   Vancomycin - [**2187-1-12**] 08:11 PM
   Cefipime - [**2187-1-13**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-1-13**] 12:00 AM
   Midazolam (Versed) - [**2187-1-13**] 04:00 AM
   Fentanyl - [**2187-1-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-13**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 54 (51 - 69) bpm
   BP: 110/46(67) {88/40(58) - 130/55(79)} mmHg
   RR: 17 (13 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
    CVP: 9 (6 - 12)mmHg
   CO/CI (Fick): (182.3 L/min) / (112.4 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  6,445 mL
                                                                    618 mL
   PO:
   TF:
                                                                    147 mL
   IVF:
                                                                  5,915 mL
                                                                    241 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    725 mL
                                                                    135 mL
   Urine:
                                                                    425 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,720 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 217 (217 - 217) mL
   RR (Set): 17
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.29/40/96.[**Numeric Identifier 274**]/17/-6
   Ve: 5.5 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   8.3 g/dL
   137 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.5 mEq/L
   29 mg/dL
   114 mEq/L
   138 mEq/L
   28.3 %
   17.2 K/uL
        [image002.jpg]
                            [**2187-1-12**]  12:17 AM
                            [**2187-1-12**]  05:57 AM
                            [**2187-1-12**]  09:15 AM
                            [**2187-1-12**]  10:48 AM
                            [**2187-1-12**]  01:13 PM
                            [**2187-1-12**]  09:31 PM
                            [**2187-1-12**]  09:43 PM
                            [**2187-1-12**]  11:23 PM
                            [**2187-1-13**]  04:02 AM
                            [**2187-1-13**]  04:47 AM
   WBC
   17.2
   Hct
   28.3
   Plt
   110
   Cr
   0.8
   1.3
   TropT
   0.02
   0.04
   TCO2
   23
   20
   20
   20
   22
   21
   20
   Glucose
   137
   Other labs: PT / PTT / INR:13.8/58.0/1.2, CK / CKMB /
   Troponin-T:25//0.04, ALT / AST:152/115, Alk Phos / T Bili:139/0.2,
   Differential-Neuts:88.0 %, Lymph:9.2 %, Mono:2.2 %, Eos:0.3 %,
   Fibrinogen:388 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:200
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and plan
   80yoF with dementia, h/o UTIs, DM; admitted with confusion and
   subsequent hypotension in setting of UTI and likely urosepsis.
   1.  Hypotension secondary to sepsis:  Suspect urinary source. Lactate
   normal; normal CvO2. Awaiting repeat CVP.
   -  Plan fluid bolus x 1L and reassess urine output, pressor
   requirement, CVP.
   - Continue levophed/vasopressin; wean levophed as tolerated
   - treatment of infectious processes as below
   - If BP not improving with fluids, can consider cortisol stimulation
   test
   2.  ID:  History of resistant gram-negative urinary tract infection,
   currently vancomycin and cefepime
   -   Given likelyhood of UTI and possible GN bacteremia; will add
   gentamicin once daily dosing while awaiting culture data
   - continue cefipime for resistant gram-negatives
   - Vancomycin with possibility of MRSA and concern for HCAP
   3.  Sinus Bradycardia:  no clear etiology, was on metoprolol at
   baseline.  Cardiac markers negative so far; EKG without ischemia.
   - continue levophed for time being
   - Await additional cardiac markers, but doubt ischemic etiology
   - TTE
   4.  Respiratory Failure:
   - awaiting repeat ABG
   - Can trial change to pressure support and minimize sedation
   - Hope to SBT tomorrow if hemodynamics improving.
   ICU Care
   Nutrition: Tube feeds start today
   Glycemic Control:   Insulin sliding scale
   Lines:
   20 Gauge - [**2187-1-12**] 12:00 AM
   22 Gauge - [**2187-1-12**] 12:30 AM
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:
   VAP: HOB/chlorhexidine/mouthcare
   Communication:  ICU consent signed, family update today
   Code status: Full code
   Disposition : Critically ill
   Total time spent:  45minutes CCT

2187-01-13 09:54:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F w/ dementia, h/o freq UTIs, DM admitted with fevers, confusion,
   hypotension, and + u/a c/w sepsis  from UTI.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2187-1-12**] 10:45 AM
 SPUTUM CULTURE - At [**2187-1-12**] 04:00 PM
 ULTRASOUND - At [**2187-1-12**] 06:30 PM--> identified possible
   perinephric abscess
   Renal US.
   Remains on 2 pressors, but slowly weaning levophed, urine output
   remains low without response to fluids
   Remains intubated
   OSH u cx with GNR, [**Last Name (un) 206**] pending
   Stress dose steroids for relative adrenal insufficiency
                                       History obtained from Medical records, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-1-12**] 12:00 PM
   Cefipime - [**2187-1-13**] 02:00 AM
   Vancomycin - [**2187-1-13**] 07:28 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2187-1-13**] 04:00 AM
   Fentanyl - [**2187-1-13**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-1-13**] 07:29 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-13**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 76 (51 - 76) bpm
   BP: 100/40(62) {88/40(58) - 130/53(79)} mmHg
   RR: 17 (14 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 4 (4 - 12)mmHg
   CO/CI (Fick): (182.3 L/min) / (112.4 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
                                Total In:
                                                                  6,445 mL
                                                                    916 mL
   PO:
                                TF:
                                181 mL
   IVF:
                                                                  5,915 mL
                                                                    465 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    725 mL
                                                                    175 mL
   Urine:
                                                                    425 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,720 mL
                                                                    741 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 217 (217 - 217) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.29/40/96.[**Numeric Identifier 274**]/17/-6
   Ve: 7.2 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   110 K/uL
   137 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.5 mEq/L
   29 mg/dL
   114 mEq/L
   138 mEq/L
   28.3 %
   17.2 K/uL
        [image002.jpg]
                            [**2187-1-12**]  12:17 AM
                            [**2187-1-12**]  05:57 AM
                            [**2187-1-12**]  09:15 AM
                            [**2187-1-12**]  10:48 AM
                            [**2187-1-12**]  01:13 PM
                            [**2187-1-12**]  09:31 PM
                            [**2187-1-12**]  09:43 PM
                            [**2187-1-12**]  11:23 PM
                            [**2187-1-13**]  04:02 AM
                            [**2187-1-13**]  04:47 AM
   WBC
   17.2
   Hct
   28.3
   Plt
   110
   Cr
   0.8
   1.3
   TropT
   0.02
   0.04
   TCO2
   23
   20
   20
   20
   22
   21
   20
   Glucose
   137
   Other labs: PT / PTT / INR:13.8/58.0/1.2, CK / CKMB /
   Troponin-T:25//0.04, ALT / AST:152/115, Alk Phos / T Bili:139/0.2,
   Differential-Neuts:88.0 %, Lymph:9.2 %, Mono:2.2 %, Eos:0.3 %,
   Fibrinogen:388 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:200
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: CT abd/pelvis reviewed--> no renal abscess seen,
   atelectasis/infiltrate b/b with AFL
   Microbiology: pan cxs [**8-12**]--pending
   OSH urine cx--[**First Name9 (NamePattern2) 9965**] [**Last Name (un) 206**] back
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 BRADYCARDIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   80F with dementia, h/o UTIs, DM; with sepsis and respiratory failure
   liekly from UTI
   #Sepsis----UTI most liekly source, but despite appropritate antbx [**First Name8 (NamePattern2) 24**]
   [**Last Name (un) 206**] she reamins on pressors with worsening leukocytosis.  Additional
   sources remain lung, skin, verses inflammatory process from sepsis, f/u
   pending cx data, send stool for c diff, RUQ ultrasound to eval for
   liver source, wound  care, continue vanco, cefepime given sensitivities
   from OSH.  trend lactates, if clinical decline would change to vanco
   and [**Last Name (un) **]
   #NGMA--likely from sepsis and nl saline--LR boluses as needed though at
   this time appears adequately fluid resusciated
    #bradycardia--maintained above  50, atripine as needed, unclear if [**2-27**]
   levophed, tryin to wean pressors, consider change to dopa
   #ARF- suspect atn, urine lytes,-avoid nephrotoxins, renally dose meds,
   stopping gent, montior rurine outpt
   #elevated LFTs--luiekly from sepis hypotnesion, ruq and ggt
   #Hypotension secondary to sepsis:  Suspect urinary source. Lactate
   normal; normal CvO2. Awaiting repeat CVP.
   -  Plan fluid bolus x 1L and reassess urine output, pressor
   requirement, CVP.
   - Continue levophed/vasopressin; wean levophed as tolerated
   - treatment of infectious processes as below
   - If BP not improving with fluids, can consider cortisol stimulation
   test
   --
   2.  ID:  History of resistant gram-negative urinary tract infection,
   currently vancomycin and cefepime
   -   Given likelyhood of UTI and possible GN bacteremia; will add
   gentamicin once daily dosing while awaiting culture data
   - continue cefipime for resistant gram-negatives
   - Vancomycin with possibility of MRSA and concern for HCAP
   3.  Sinus Bradycardia:  no clear etiology, was on metoprolol at
   baseline.likely from sepsis or possibly meds  Cardiac markers negative
   so far; EKG without ischemia.
   - continue levophed for time being
   - Await additional cardiac markers, but doubt ischemic etiology
   - TTE
   #Respiratory Failure--not candidate to wean at this time due secretions
   and metabolic acidosis with high chance of fatiguing. follow abgs,
   continue acv for now.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-1-13**] 12:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-01-14 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Urosepsis
   24 Hour Events:
   Stool sent for c.diff
   LFTs bumped so got RUQ u/s which showed severe gallbladder wall
   thickening, called surgery who did not feel this was c/w cholecystitis
   but that if she does not improve should place a percutaneous
   cholecystostomy tube.
   Lactate normalized
   UOP improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-1-12**] 12:00 PM
   Cefipime - [**2187-1-13**] 02:00 AM
   Vancomycin - [**2187-1-13**] 07:28 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2187-1-13**] 09:00 AM
   Fentanyl - [**2187-1-13**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-1-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2187-1-14**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 91 (48 - 98) bpm
   BP: 124/52(78) {94/35(54) - 130/62(86)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  1,914 mL
                                                                    306 mL
   PO:
   TF:
                                                                    660 mL
                                                                     93 mL
   IVF:
                                                                    724 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    315 mL
   Urine:
                                                                    695 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,219 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 478 (207 - 478) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/39/115/21/-2
   Ve: 7.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   76 K/uL
   7.4 g/dL
   128 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   33 mg/dL
   114 mEq/L
   140 mEq/L
   23.0 %
   9.2 K/uL
        [image002.jpg]
                            [**2187-1-12**]  01:13 PM
                            [**2187-1-12**]  09:31 PM
                            [**2187-1-12**]  09:43 PM
                            [**2187-1-12**]  11:23 PM
                            [**2187-1-13**]  04:02 AM
                            [**2187-1-13**]  04:47 AM
                            [**2187-1-13**]  01:21 PM
                            [**2187-1-14**]  02:00 AM
                            [**2187-1-14**]  02:07 AM
                            [**2187-1-14**]  06:00 AM
   WBC
   17.2
   8.5
   9.2
   Hct
   28.3
   23.1
   23.0
   Plt
   110
   93
   76
   Cr
   1.3
   1.4
   TropT
   0.04
   TCO2
   20
   22
   21
   20
   21
   23
   Glucose
   137
   128
   Other labs: PT / PTT / INR:14.1/146.6/1.2, CK / CKMB /
   Troponin-T:25//0.04, ALT / AST:130/90, Alk Phos / T Bili:125/0.2,
   Differential-Neuts:88.0 %, Lymph:9.2 %, Mono:2.2 %, Eos:0.3 %,
   Fibrinogen:468 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:221
   IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Imaging: CT Torso:
   1. Gall bladder wall edema. In case of clinical concern for
   cholecystitis
   right upper quadrant ultrasound is recommended.
   2. Limited evaluation due to lack of IV contrast however no definite
   perinephric fluid collection. Small amount of fluid in the right
   perinephric
   space is nonspecific but does not have the appearance of an abscess.
   3. Moderate-volume intra-abdominal ascites.
   4. Colonic diverticulosis, mostly in the ascending colon, with no
   evidence of
   diverticulitis.
   5. Cardiomegaly and severe coronary artery calcifications.
   6. Bilateral small pleural effusions with associated atelectasis.
   Severe
   emphysema.
   RUQ U/S:
   Severely thickened gallbladder wall. Differential diagnosis is broad
   and
   includes underlying liver disease and fluid overload. Clinical
   correlation is
   recommended.
   Echogenic liver may represent fatty deposition. Please note that other
   liver
   disease such as fibrosis or cirrhosis cannot be excluded.
   CXR (my read): Increase in RLL opacification. Stable LLL retrocardiac
   density
   Microbiology: URINE CULTURE [**1-12**]
   (Preliminary):
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
   Blood cx [**1-12**] NGTD
   Sputum [**2097-1-10**]: NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 BRADYCARDIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   80yoF with dementia, h/o UTIs, DM; admitted with confusion and
   subsequent hypotension in setting of UTI and likely urosepsis.
   1.  Hypotension secondary to sepsis:  Suspect urinary source, but
   rising LFTs and RUQ tenderness may indicate hepatic/cholecystic source
   but urosepsis. LFTs improving. UOP improving. Leukocytosis improving
   -RUQ U/S with GB thickening but surgery does not overtly suspect
   cholecystitis, if not improving consider perc drain
   - Continue levophed/vasopressin; wean levophed as tolerated
   - treatment of infectious processes as below
   - stress dose steroids.
   2.  ID:  History of resistant gram-negative urinary tract infection,
   currently vancomycin and cefepime, growing providencia stuartii, [**Last Name (un) 206**]
   to cefepime at OSH.
   -   Given likelyhood of UTI and possible GN bacteremia;
   - continue cefipime for resistant gram-negatives
   - Vancomycin with possibility of MRSA and concern for HCAP
   .
   # Acute renal failure: Likely due to initial hypotensive episode
   causing ATN,
   -Renally dose meds
   -Con
t to monitor, maintain euvolemia
   # Anemia, thrombocytopenia: Elevated PTT and rapid drop in both cell
   lines concerning for DIC. No signs of hemolysis on current labs. HIT
   also a possibility given likely recent exposure but would not account
   for HCT drop.
   -Stat fibrinogen, hemolysis labs, peripheral smear
   -Transfuse cryo for fib<100, platlets, FFP, and blood as needed
   -Follow coags, fibrinogen, and CBC
   3.  Sinus Bradycardia:  no clear etiology, was on metoprolol at
   baseline.  Cardiac markers negative so far; EKG without
   ischemia.
   - continue levophed for time being
   - Await additional cardiac markers, but doubt ischemic etiology
   - TTE with reduced global function but no focal WMA
   4.  Respiratory Failure: RSBI too high today and MS not improved.
   Possibly complicated by Ativan being received for ketamine study
   protocol.
   - Can trial change to pressure support and minimize sedation
   - Hope to SBT tomorrow if hemodynamics improving.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2187-01-14 11:15:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F  NH resident with DM, dementia, freq UTIs presents with sepsis and
   respiratory failure likely  from UTI
   24 Hour Events:
   ruq us--> severe GB wall thickening, surgery consulted
   lactate normalized
   urine outpt improved
   continue to wean down pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-1-12**] 12:00 PM
   Cefipime - [**2187-1-13**] 02:00 AM
   Vancomycin - [**2187-1-13**] 07:28 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-1-14**] 12:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-14**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 80 (48 - 98) bpm
   BP: 117/48(74) {94/35(54) - 130/52(78)} mmHg
   RR: 24 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
   CVP: 13 (2 - 13)mmHg
   Total In:
                                                                  1,914 mL
                                                                    416 mL
   PO:
   TF:
                                                                    660 mL
                                                                     93 mL
   IVF:
                                                                    724 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    590 mL
   Urine:
                                                                    695 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,219 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 462 (207 - 478) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/39/115/21/-2
   Ve: 7.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Thin elderly F, sedated and unresponsive
   Eyes / Conjunctiva: cataracts b
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, R heal ulcer with purulen drainage
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Sedated,
   Labs / Radiology
   7.4 g/dL
   76 K/uL
   128 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   33 mg/dL
   114 mEq/L
   140 mEq/L
   23.0 %
   9.2 K/uL
        [image002.jpg]
                            [**2187-1-12**]  01:13 PM
                            [**2187-1-12**]  09:31 PM
                            [**2187-1-12**]  09:43 PM
                            [**2187-1-12**]  11:23 PM
                            [**2187-1-13**]  04:02 AM
                            [**2187-1-13**]  04:47 AM
                            [**2187-1-13**]  01:21 PM
                            [**2187-1-14**]  02:00 AM
                            [**2187-1-14**]  02:07 AM
                            [**2187-1-14**]  06:00 AM
   WBC
   17.2
   8.5
   9.2
   Hct
   28.3
   23.1
   23.0
   Plt
   110
   93
   76
   Cr
   1.3
   1.4
   TropT
   0.04
   TCO2
   20
   22
   21
   20
   21
   23
   Glucose
   137
   128
   Other labs: PT / PTT / INR:14.1/146.6/1.2, CK / CKMB /
   Troponin-T:25//0.04, ALT / AST:130/90, Alk Phos / T Bili:125/0.2,
   Differential-Neuts:85.2 %, Band:0.0 %, Lymph:9.4 %, Mono:4.2 %, Eos:1.1
   %, Fibrinogen:572 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL,
   LDH:221 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Imaging: ruq us reviewed
   cxr--increased blunting of R base, full hilar vessels,m line and et ok
   Microbiology: gnr in urine cx,  blood ngtd
   Assessment and Plan
   80F  NH resident with DM, dementia, freq UTIs presents with sepsis and
   respiratory failure likely  from UTI
   Issues include:
          Sepsis
          hypotension
          respiratory failure
          NGMA
          ARF
          bradycardia (resolved)
          elevated LFTs/transaminitis
          Thrombocytopenia
              Anemia with new hct drop
              Coagulopathy with elevated PTT
   UTI appears most likely source of sepsis with Providencia growing from
   OSH ucx sensitive to cefepime. Also with possible RLL pna.  Improving
   in terms of sepsis parameters now nearly off of pressors with
   decreasing wbc ct. Svo2 high and lactate normalized suggesting adequate
   flow, microcirculation and O2 extraction.  Met acidosis much improved.
   Agree with plan to continue broad antibx--vanco, cefepime. Given
   concern for possible aspiration/rll pna would keep vanco on for now,
   but If no GPC/mrsa from cx could stop tomorrow.  F/u pending cx data,
   stool for c diff,  follow abd exam and lfts.  Surgical input
   appreciated.  Wound care c/s for R heal ulcer.  Wean levophed as
   tolerates. Continue stress steroids for relative adrenal insuff.
   Concerning is her progressive thrombocytopenia. Anemia, and
   coagulopathy with increased PTT.  Etiology unclear, ? hemolysis,
   sepsis/consumptive process/dic, bleed.  Labs do not support DIC or
   hemolysis and no active bleeding is apparent. Mod to low suspicion for
   HIT given quick time course.  Would stop heparin producte, dollow
   hemolysis labs and dic panel and repeat smear.  Check for inhibitor.
   Type and cross.  If hct declines further, would transfuse given
   pressors and eval further for bleeding.
   In terms of vent, secretions, rsbi and poor MS limit ability to
   extubated.  Doing well currently on PS.
   Sinus brady has improved.  Unclear if [**2-27**] levophed verses conduction
   issue verses sepsis. Vs related to BB taken in NH.
   Suspect ARF is [**2-27**] atn from hypotension and sepsis. Urine outpt has
   improved.  Avoid nephrotoxins, renally dose meds, monitor urine outpt,
   maintain euvolemia.
   Remainder as per resident note
   ICU Care
   Nutrition: TF on hold.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  start PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Critically ill
   Disposition : ICU
   Total time spent:  40 min

2187-01-15 07:33:00 Physician Resident Progress Note
Chief Complaint: altered mental status [**2-27**] urosepsis
   24 Hour Events:
   Weened off levo, still on a little vaso
   HCT and platelets tanked but no signs of DIC, con't to follow. Sent HIT
   as well. Sent factor 8 inhibitor given some level of PTT elevation on
   presentation.
   Surgery still not impressed enought to do anything with the GB but will
   continue to follow. Have yet to let us know if she can get fed yet
   despite pages.
   Urine groins PROVIDENCIA STUARTII here as well as OSH.
   Had periods of apnea around 7pm, started on MMV. CT head->no acute
   process
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-1-12**] 12:00 PM
   Cefipime - [**2187-1-13**] 02:00 AM
   Vancomycin - [**2187-1-13**] 07:28 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-1-14**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-15**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.6
C (96
   HR: 40 (39 - 96) bpm
   BP: 140/55(87) {87/40(58) - 149/68(341)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
    CVP: 11 (6 - 13)mmHg
   Total In:
                                                                    631 mL
                                                                     43 mL
   PO:
   TF:
                                                                     93 mL
   IVF:
                                                                    277 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    315 mL
   Urine:
                                                                  1,090 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -459 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 375 (357 - 462) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.33/40/164/18/-4
   Ve: 6.3 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   68 K/uL
   7.2 g/dL
   132 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.5 mEq/L
   32 mg/dL
   117 mEq/L
   143 mEq/L
   22.8 %
   8.6 K/uL
        [image002.jpg]
                            [**2187-1-13**]  04:47 AM
                            [**2187-1-13**]  01:21 PM
                            [**2187-1-14**]  02:00 AM
                            [**2187-1-14**]  02:07 AM
                            [**2187-1-14**]  06:00 AM
                            [**2187-1-14**]  12:35 PM
                            [**2187-1-14**]  03:37 PM
                            [**2187-1-14**]  09:54 PM
                            [**2187-1-15**]  05:00 AM
                            [**2187-1-15**]  05:13 AM
   WBC
   8.5
   9.2
   10.7
   8.8
   8.6
   Hct
   23.1
   23.0
   23.0
   22.0
   22.8
   Plt
   93
   76
   67
   69
   68
   Cr
   1.4
   1.2
   TCO2
   20
   21
   23
   22
   22
   Glucose
   128
   132
   Other labs: PT / PTT / INR:12.5/30.2/1.1, CK / CKMB /
   Troponin-T:25//0.04, ALT / AST:111/65, Alk Phos / T Bili:137/0.2,
   Differential-Neuts:85.2 %, Band:0.0 %, Lymph:9.4 %, Mono:4.2 %, Eos:1.1
   %, Fibrinogen:659 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:208 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
[**2187-1-12**] 12:04 am URINE      Source: Catheter.
   URINE CULTURE (Preliminary):
      PROVIDENCIA STUARTII.    >100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PROVIDENCIA STUARTII
                             |
AMIKACIN--------------   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R
PIPERACILLIN/TAZO-----     8 S
TRIMETHOPRIM/SULFA----     8 R
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 BRADYCARDIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   80yoF with dementia, h/o UTIs, DM; admitted with confusion and
   subsequent hypotension in setting of UTI and likely urosepsis.
   1.  Hypotension secondary to sepsis:  Suspect urinary source, but
   rising LFTs and RUQ tenderness may indicate hepatic/cholecystic source
   but urosepsis. LFTs improving. UOP improving. Leukocytosis improving
   -RUQ U/S with GB thickening but surgery does not overtly suspect
   cholecystitis, if not improving consider perc drain
   - Continue levophed/vasopressin; wean levophed as tolerated
   - treatment of infectious processes as below
   - stress dose steroids.
   2.  ID:  History of resistant gram-negative urinary tract infection,
   currently vancomycin and cefepime, growing providencia stuartii, [**Last Name (un) 206**]
   to cefepime at OSH.
   -   Given likelyhood of UTI and possible GN bacteremia;
   - continue cefipime for resistant gram-negatives
   - Vancomycin with possibility of MRSA and concern for HCAP
   .
   # Acute renal failure: Likely due to initial hypotensive episode
   causing ATN,
   -Renally dose meds
   -Con
t to monitor, maintain euvolemia
   # Anemia, thrombocytopenia: Elevated PTT and rapid drop in both cell
   lines concerning for DIC. No signs of hemolysis on current labs. HIT
   also a possibility given likely recent exposure but would not account
   for HCT drop.
   -Stat fibrinogen, hemolysis labs, peripheral smear
   -Transfuse cryo for fib<100, platlets, FFP, and blood as needed
   -Follow coags, fibrinogen, and CBC
   3.  Sinus Bradycardia:  no clear etiology, was on metoprolol at
   baseline.  Cardiac markers negative so far; EKG without
   ischemia.
   - continue levophed for time being
   - Await additional cardiac markers, but doubt ischemic etiology
   - TTE with reduced global function but no focal WMA
   4.  Respiratory Failure: RSBI too high today and MS not improved.
   Possibly complicated by Ativan being received for ketamine study
   protocol.
   - Can trial change to pressure support and minimize sedation
   - Hope to SBT tomorrow if hemodynamics improving.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-01-15 09:51:00 Physician Attending Progress Note
Chief Complaint: Hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80yoF with dementia, h/o UTIs, admitted with AMS and progressed to
   hypotension/shock and respiratory failure, with likely urosepsis.
   24 Hour Events:
   Urine culture with providencia stuartii (gram-negative rod).
   Remains on vasopressin; off levophed.
   Periods of apnea, but improved with decreased PSV.
   Head CT without acute processes.
   Significant thin frothy secretions.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2187-1-12**] 12:00 PM
   Cefipime - [**2187-1-13**] 02:00 AM
   Vancomycin - [**2187-1-15**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2187-1-14**] 04:21 PM
   Other medications:
   colace
   Insulin sliding scale
   Cefipime
   chlorhexidine
   Hydrocortisone 50mg q8h
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-15**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.2
C (95.3
   HR: 64 (39 - 88) bpm
   BP: 100/45(68) {87/40(58) - 149/68(341)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
   CVP: 11 (7 - 13)mmHg
   Total In:
                                                                    631 mL
                                                                    331 mL
   PO:
   TF:
                                                                     93 mL
   IVF:
                                                                    277 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    383 mL
   Urine:
                                                                  1,090 mL
                                                                    383 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -459 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 334 (334 - 460) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.33/40/164/18/-4
   Ve: 6.1 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Gen: Opens eyes to sternal rub, can follow some simple commands
   Chest: clear anterior, superior posterior fields with scant crackles
   CV: RRR
   Abd: s/nt/nd
   Ext: hand, LE edema 1+
   Labs / Radiology
   7.2 g/dL
   68 K/uL
   132 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.5 mEq/L
   32 mg/dL
   117 mEq/L
   143 mEq/L
   22.8 %
   8.6 K/uL
        [image002.jpg]
                            [**2187-1-13**]  04:47 AM
                            [**2187-1-13**]  01:21 PM
                            [**2187-1-14**]  02:00 AM
                            [**2187-1-14**]  02:07 AM
                            [**2187-1-14**]  06:00 AM
                            [**2187-1-14**]  12:35 PM
                            [**2187-1-14**]  03:37 PM
                            [**2187-1-14**]  09:54 PM
                            [**2187-1-15**]  05:00 AM
                            [**2187-1-15**]  05:13 AM
   WBC
   8.5
   9.2
   10.7
   8.8
   8.6
   Hct
   23.1
   23.0
   23.0
   22.0
   22.8
   Plt
   93
   76
   67
   69
   68
   Cr
   1.4
   1.2
   TCO2
   20
   21
   23
   22
   22
   Glucose
   128
   132
   Other labs: PT / PTT / INR:12.5/30.2/1.1, CK / CKMB /
   Troponin-T:25//0.04, ALT / AST:111/65, Alk Phos / T Bili:137/0.2,
   Differential-Neuts:85.2 %, Band:0.0 %, Lymph:9.4 %, Mono:4.2 %, Eos:1.1
   %, Fibrinogen:659 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:208 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: 7.33/40/164
   Imaging: CXR:
   Microbiology: Urine culture: p. stuartii (GN rod)
   Blood cultures: no growth to date
   Sputum: no growth to date
   Assessment and Plan
   80yoF with AMS, hypotension, respiratory failure in setting of
   urosepsis.
   1.       Urosepsis/UTI:
   - can discontinue vancomycin, change from cefipime to ceftriaxone given
   sensitivities
   - Overall her shock is improving, both sepsis, adrenal insufficiency
   possible explanations.
   - Continuing steroids as below.
   - Restart levophed and wean, d/c vasopressin.
   - given persistent pressor requirement, check cardiac output with
   vigileo; consider dobutamine.
   2.       Adrenal Insufficiency:]
   - continue hydrocortisone 50mg q8h; will consider taper after off
   pressors
   3.       Respiratory Failure due to altered mental status/aspiration:
   barriers to extubation 1) mental status, 2) secretions
   - SBT today
   - Allow for auto-diuresis, can consider lasix if needed to maintain
   euvolemia.
   4.       Acute renal failure:  Likely septis induced injury/ATN
   - Urine output improving, cr improving.
   - Will consider diuresis today.
   5.       Thrombocytopenia/anemia:
   - HIT pending; off heparin
   - repeat HCT this afternoon; but no evidence of active bleeding
   ICU Care
   Nutrition:
   Comments: tube feeds started today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: will update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   80 year old female with history of dementia and recurrent UTIs who
   presented with hypotension/shock believed secondary to urinary tract
   infection (gram negatives growing from urine).  She remains on small
   dose of vasopressors and has a marginal urine output and is
   hypothermic.
   T 36.6  P 64  BP 100/45  RR 23  Sat: 98%
   Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Extrem: warm but on warming blanket
   Assessment:
   1)       Septic Shock: presumably due to UTI though there was some GB
   wall thickening and was being followed by surgery who feel low
   likelihood of GB as etiology.  Given that she is growing gram negatives
   from urine, I think this is the most likely source but it is concerning
   to me that she remains relatively hypotensive, hypothermia, and with
   marginal urine output.  Given that her current hemoglobin is quite low
   and showing hypodynamic physiology, we will first treat this and try to
   wean off the small dose of vasopressors and improve hemodynamics.  If
   unable, will consider further exploration of the GB.
   2)       Acute Respiratory Failure
   3)       Baseline Dementia
   Plan:
   1)       Check hemodynamics with pulse contour analysis -> CI 2.6
   2)       Transfuse 2 units of blood and wean off vasopressin as
   tolerated -> re-evaluate the hemodynamics/urine output after
   transfusion
   3)       Continue mechanical ventilation -> wean sedation as tolerated
   Time Spent: 30 minutes
   Patient is Critically Ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2187-1-15**] 17:41 ------

2187-01-16 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Urosepsis
   24 Hour Events:
 EKG - At [**2187-1-15**] 08:00 AM
 ULTRASOUND - At [**2187-1-15**] 03:15 PM
   lower extremeties, check for dvt d/t HIT +.
   -Hct stable
   -HIT ab returned positive. started on argatroban, BLLE U/S are
   negative. hematology consulted, think low likelyhood of HIT. recommend
   DVT ppx with argatrogan only. serotonin release assay sent.
   -PTT normalized, likely due to heparin. Factor VIII levels normal. no
   mixing study required at this time.
   -failed SBT
   -transfused 2 U PRBCs yesterday Hct up to 27
   -weaned off pressors o/n
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-15**] 08:00 AM
   Ceftriaxone - [**2187-1-15**] 12:00 PM
   Infusions:
   Argatroban - 1.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2187-1-16**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 70 (41 - 98) bpm
   BP: 127/51(78) {100/37(58) - 136/59(87)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  1,484 mL
                                                                    707 mL
   PO:
   TF:
                                                                    370 mL
                                                                    278 mL
   IVF:
                                                                    508 mL
                                                                     89 mL
   Blood products:
                                                                    426 mL
                                                                    140 mL
   Total out:
                                                                    785 mL
                                                                  1,155 mL
   Urine:
                                                                    785 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    699 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 294 (233 - 651) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 134
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.35/39/58/21/-3
   Ve: 8.5 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   96 K/uL
   9.0 g/dL
   151 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.7 mEq/L
   34 mg/dL
   115 mEq/L
   144 mEq/L
   28.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-1-14**]  06:00 AM
                            [**2187-1-14**]  12:35 PM
                            [**2187-1-14**]  03:37 PM
                            [**2187-1-14**]  09:54 PM
                            [**2187-1-15**]  05:00 AM
                            [**2187-1-15**]  05:13 AM
                            [**2187-1-15**]  10:25 AM
                            [**2187-1-15**]  02:39 PM
                            [**2187-1-16**]  01:51 AM
                            [**2187-1-16**]  06:10 AM
   WBC
   9.2
   10.7
   8.8
   8.6
   10.5
   9.9
   Hct
   23.0
   23.0
   22.0
   22.8
   21.9
   27.3
   28.0
   Plt
   76
   67
   69
   68
   64
   96
   Cr
   1.2
   1.3
   TCO2
   22
   22
   22
   Glucose
   132
   151
   Other labs: PT / PTT / INR:17.2/40.6/1.5, CK / CKMB /
   Troponin-T:26//0.04, ALT / AST:84/42, Alk Phos / T Bili:131/0.2,
   Differential-Neuts:84.5 %, Band:0.0 %, Lymph:9.5 %, Mono:5.2 %, Eos:0.6
   %, Fibrinogen:673 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:201 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: LENIS:
   No DVT bilaterally
   CXR(my read): Improved right sided aeration
   Microbiology: Sputum [**2097-1-10**]: Yeast sparse growth
   Blood cx [**1-12**]: NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 BRADYCARDIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   80yoF with dementia, h/o UTIs, DM; admitted with confusion and
   subsequent hypotension in setting of UTI and likely urosepsis.
   1.  Hypotension secondary to sepsis: Due to urosepsis from PROVIDENCIA
   STUARTII growing in blood. Blood pressure remains stable off pressors
   after 2 units PRBCs.
   - Con
t  ceftriaxone for 14 day course from [**1-12**]
   - Ween stress dose steroids to PO prednisone 20mg today
   # Acute renal failure: Likely has ATN from hypotension, renal function
   is stable.
   -Renally dose meds
   -Con
t to monitor, maintain equal Is and Os, await post ATN diuresis.
   # Anemia, thrombocytopenia: [**Month (only) 11**] be bone marrow suppression due to
   infection.. No signs of hemolysis on current labs. DIC labs negative.
   HIT ab positive, but heme feels low suspicion of actualy HIT. Serotonin
   release assay pending.
   -f/u Heme recs, ? what is argatroban DVT prophylaxis
   - F/U B12, folate
    -Follow coags, fibrinogen, and CBC
    # Elevated PTT: Likely in setting of heparin, PTT normalized once
   heparin stopped. Factor VIII levels normal. No need for mixing study at
   this time.
   # Sinus Bradycardia:  EKG shows mild 1
 degree AV block, may be in
   setting of illness. no clear etiology, was on metoprolol at baseline.
   Cardiac markers negative so far; EKG without
   ischemia. TTE with reduced global function but no focal WMA
   - consider cards consult when more stable if persistent, ? SSS
   - hold any beta blockers
   # Respiratory Failure:  failed SBT today with increased RR and
   hypertension,  returned to pressure support
   - Diurese witn 20mg IV lasix, goal I/O -1-1.5L
   - Retry SBT in am
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-1-16**] 03:43 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer:
   VAP: Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2187-01-16 11:11:00 Physician Attending Progress Note
Chief Complaint: Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F with dementia, frequent UTIs; admitted with urosepsis.
   24 Hour Events:
   Transfused PRBC x 2; off pressors.
   HIT positive; started argatroban.
   Failed SBT with increased RR and low tidal volumes (RSBI > 105).
   Urine output improving.
   Low grade fever overnight (Temp 100.0)
                             Patient unable to provide history: Encephalopathy
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-15**] 08:00 AM
   Ceftriaxone - [**2187-1-15**] 12:00 PM
   Infusions:
   Argatroban - 1.75 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Colace
   Insulin slliding scale
   Chlorhexidine
   Hydrocortisone
   Lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-16**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98
   HR: 79 (41 - 98) bpm
   BP: 129/51(81) {106/37(58) - 136/59(87)} mmHg
   RR: 27 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
   CVP: 8 (5 - 15)mmHg
   Total In:
                                                                  1,484 mL
                                                                    975 mL
   PO:
   TF:
                                                                    370 mL
                                                                    433 mL
   IVF:
                                                                    508 mL
                                                                    143 mL
   Blood products:
                                                                    426 mL
                                                                    140 mL
   Total out:
                                                                    785 mL
                                                                  1,495 mL
   Urine:
                                                                    785 mL
                                                                  1,495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    699 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (233 - 651) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 190
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.38/40/156/21/0
   Ve: 9 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Gen: awake
   Chest: clear anteriorly
   CV: RRR
   Abd: s/nt/nd
   Ext: warm/well perfused, no edema
   Neurologic: Opens eyes, follows simple commands
   Labs / Radiology
   9.0 g/dL
   96 K/uL
   151 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.7 mEq/L
   34 mg/dL
   115 mEq/L
   144 mEq/L
   28.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2187-1-14**]  12:35 PM
                            [**2187-1-14**]  03:37 PM
                            [**2187-1-14**]  09:54 PM
                            [**2187-1-15**]  05:00 AM
                            [**2187-1-15**]  05:13 AM
                            [**2187-1-15**]  10:25 AM
                            [**2187-1-15**]  02:39 PM
                            [**2187-1-16**]  01:51 AM
                            [**2187-1-16**]  06:10 AM
                            [**2187-1-16**]  07:51 AM
   WBC
   10.7
   8.8
   8.6
   10.5
   9.9
   Hct
   23.0
   22.0
   22.8
   21.9
   27.3
   28.0
   Plt
   67
   69
   68
   64
   96
   Cr
   1.2
   1.3
   TCO2
   22
   22
   22
   25
   Glucose
   132
   151
   Other labs: PT / PTT / INR:18.9/40.7/1.7, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:84/42, Alk Phos / T Bili:131/0.2,
   Differential-Neuts:84.5 %, Band:0.0 %, Lymph:9.5 %, Mono:5.2 %, Eos:0.6
   %, Fibrinogen:673 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:201 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Microbiology: No new data
   Assessment and Plan
   80yoF with dementia, history of UTIs, suspect urosepsis with improving
   hemodynamics.
   1.  Urosepsis:  Fever curve improved
   - off pressors now
   - urine output improving
   - Treating urinary source; no other clear etiololgy as RUQ ultrasound
   unimpressive for cholecystitis, CT
   -  Ceftriaxone x 2 weeks
   - Wean hydrocortisone
   2.  Respiratory Failure:  Intubated in setting of poor mental status
   and secretions with concern for aspiration.   Failed SBT today.
   - Aim TBB negative 1-1.5L today; diurese as needed with lasix.
   - SBT tomorrow; hold tube feeds in AM
   3.  HIT+:
   - Heme following, will discuss regarding treatment versus prophylaxis
   - serotonin assay
   - LENIs negative
   4.  Acute renal failure: improving
   -  diuresis today
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2187-1-16**] 03:43 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments: Will update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, patient received PRBCs and urine output, blood pressure
   improved remarkably and now off vasopressors.  Remains on mechanical
   ventilator.
   T 37.9  P 79  BP 129/59   R 27  Sat: 97%
   Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft, NT ND
   Ext: +1 edema
   Assessment:
   1)       Urosepsis
 resolving
   2)       Shock
   3)       Acute respiratory Failure
   4)       Relative Adrenal Insufficiency
   5)       HIT
   Plan:
   1)       Wean hydrocortisone
   2)       Attempt SBT
 was unsuccessful today, so can aim for tomorrow
 may need diuresis
   3)       Continue antibiotics
   4)       Hold all heparin products
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2187-1-16**] 07:27 PM ------

2187-01-17 07:23:00 Physician Resident Progress Note
Chief Complaint: urosepsis
   24 Hour Events:
   Heme did not think HIT was very likely but said can keep on argatroban
   for DVT PPx
   Started on D5W for hypernatremia
   Stopped TFs at MN plan for extubation this am
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-15**] 08:00 AM
   Ceftriaxone - [**2187-1-16**] 12:00 PM
   Infusions:
   Argatroban - 3 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2187-1-16**] 11:30 AM
   Lansoprazole (Prevacid) - [**2187-1-16**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated. Denies pain
   Flowsheet Data as of  [**2187-1-17**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.5
   HR: 62 (62 - 89) bpm
   BP: 140/56(91) {120/41(69) - 152/59(98)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
    CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  2,333 mL
                                                                    399 mL
   PO:
   TF:
                                                                  1,089 mL
                                                                     10 mL
   IVF:
                                                                    524 mL
                                                                    389 mL
   Blood products:
                                                                    140 mL
   Total out:
                                                                  3,350 mL
                                                                    585 mL
   Urine:
                                                                  3,350 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,017 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 268 (247 - 388) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.38/40/156/26/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: No acute distress, intubated, follows commands,
   moves all extremities
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, 2/6 SEM
   Peripheral Vascular:
   Respiratory / Chest: CTA anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Labs / Radiology
   C diff negative [**1-16**]
   108 K/uL
   9.0 g/dL
   66 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   32 mg/dL
   118 mEq/L
   150 mEq/L
   27.3 %
   11.9 K/uL
        [image002.jpg]
                            [**2187-1-14**]  09:54 PM
                            [**2187-1-15**]  05:00 AM
                            [**2187-1-15**]  05:13 AM
                            [**2187-1-15**]  10:25 AM
                            [**2187-1-15**]  02:39 PM
                            [**2187-1-16**]  01:51 AM
                            [**2187-1-16**]  06:10 AM
                            [**2187-1-16**]  07:51 AM
                            [**2187-1-16**]  05:36 PM
                            [**2187-1-17**]  03:57 AM
   WBC
   8.8
   8.6
   10.5
   9.9
   11.3
   11.9
   Hct
   22.0
   22.8
   21.9
   27.3
   28.0
   27.9
   27.3
   Plt
   69
   68
   64
   96
   104
   108
   Cr
   1.2
   1.3
   1.4
   1.3
   TCO2
   22
   22
   25
   Glucose
   132
   151
   170
   66
   Other labs: PT / PTT / INR:22.6/53.1/2.1, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:84/42, Alk Phos / T Bili:131/0.2,
   Differential-Neuts:84.5 %, Band:0.0 %, Lymph:9.5 %, Mono:5.2 %, Eos:0.6
   %, Fibrinogen:673 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:201 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   CXR
 possible RLL opacity
   Assessment and Plan
   80 year old female with hx of DM2, HTN, dementia and frequent UTIs
   presents with altered mental status, hypotension, and bradycardia and
   found to have urosepsis and thrombocytopenia
   #.  Sepsis: BP stable since 2 U PRBC administered. PROVIDENCIA STUARTII
   growing in blood. Blood pressure remains stable off pressors after 2
   units PRBCs. C diff negative.  Patient borderline febrile yesterday
   with possible opacity in right lobe. Leukocytosis is stable, and
   patient at risk for VAP, but currently afebrile.
   - Check sputum culture prior to extubation
   - Con
t  ceftriaxone for 14 day course from [**1-12**]
   - If [**Last Name (LF) 3708**], [**First Name3 (LF) 116**] broaden to VAP coverage
   - Ween stress dose steroids to PO prednisone 10mg starting TOMMOROW
   # Hypernatremia: Na up from 148 to 150. Several litres negative since
   admission. Likely hypovolemic, but total body volume overloaded.
   - Complete D5W x 1.5 L and recheck Na this afternoon
   # Acute renal failure: Likely has ATN from hypotension, renal function
   is stable. Total body overloaded.
   -Renally dose meds
   -Con
t to monitor, maintain equal Is and Os, await post ATN diuresis.
   # Anemia, thrombocytopenia: [**Month (only) 11**] be bone marrow suppression due to
   infection.. No signs of hemolysis on current labs. DIC labs negative.
   HIT ab positive, but heme feels low suspicion of actualy HIT. She is
   intermediate probability and has no obvious sequelae from HIT.
   Serotonin release assay pending.
   - f/u Hematology recs
   - Continue argabtroban for now pending seratonic release assay
   - F/U B12, folate
    -Follow coags, fibrinogen, and CBC
    # Elevated PTT/INR: Likely due to argratroban, Factor VIII levels
   normal. No need for mixing study at this time.
   # Sinus Bradycardia:  EKG shows mild 1
 degree AV block, may be in
   setting of illness. no clear etiology, was on metoprolol at baseline.
   Cardiac markers negative so far; EKG without
   ischemia. TTE with reduced global function but no focal WMA
   - consider cards consult when more stable if persistent, ? SSS
   - hold any beta blockers
   # Respiratory Failure: Did well with SBT this morning. Plan to extubate
   after SBP.
   - Diurese witn 20mg IV lasix, goal I/O -1-1.5L
   - Plan to extbuate this morning
   - NG tube placement prior to extubation
   - S and S consult post extubation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-1-16**] 03:43 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer:
   VAP: Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now

2187-01-17 10:21:00 Physician Attending Progress Note
Chief Complaint: Urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80F admitted with hypotension, confusion in setting of suspected
   urosepsis.
   24 Hour Events:
   Stable overnight and over last 24 hours.
   Continued on argatroban for HIT.
   Started D5W with worsening hypernatremia.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-15**] 08:00 AM
   Ceftriaxone - [**2187-1-16**] 12:00 PM
   Infusions:
   Argatroban - 3 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2187-1-16**] 11:30 AM
   Lansoprazole (Prevacid) - [**2187-1-16**] 12:00 PM
   Other medications:
   Insulin sliding scale
   Kphos
   Prednisone 20mg daily
   ASA 325mg daily
   Chlorhexidine
   Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-17**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.6
C (96
   HR: 50 (50 - 89) bpm
   BP: 131/53(95) {120/41(69) - 152/59(98)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
   CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  2,333 mL
                                                                  1,179 mL
   PO:
   TF:
                                                                  1,089 mL
                                                                     10 mL
   IVF:
                                                                    524 mL
                                                                  1,079 mL
   Blood products:
                                                                    140 mL
   Total out:
                                                                  3,350 mL
                                                                    735 mL
   Urine:
                                                                  3,350 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,017 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 293 (247 - 350) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Neurologic: Follows commands, awakens to voice
   Labs / Radiology
   9.0 g/dL
   108 K/uL
   66 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   32 mg/dL
   118 mEq/L
   150 mEq/L
   27.3 %
   11.9 K/uL
        [image002.jpg]
                            [**2187-1-14**]  09:54 PM
                            [**2187-1-15**]  05:00 AM
                            [**2187-1-15**]  05:13 AM
                            [**2187-1-15**]  10:25 AM
                            [**2187-1-15**]  02:39 PM
                            [**2187-1-16**]  01:51 AM
                            [**2187-1-16**]  06:10 AM
                            [**2187-1-16**]  07:51 AM
                            [**2187-1-16**]  05:36 PM
                            [**2187-1-17**]  03:57 AM
   WBC
   8.8
   8.6
   10.5
   9.9
   11.3
   11.9
   Hct
   22.0
   22.8
   21.9
   27.3
   28.0
   27.9
   27.3
   Plt
   69
   68
   64
   96
   104
   108
   Cr
   1.2
   1.3
   1.4
   1.3
   TCO2
   22
   22
   25
   Glucose
   132
   151
   170
   66
   Other labs: PT / PTT / INR:22.6/62.5/2.1, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:84/42, Alk Phos / T Bili:131/0.2,
   Differential-Neuts:84.5 %, Band:0.0 %, Lymph:9.5 %, Mono:5.2 %, Eos:0.6
   %, Fibrinogen:673 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:201 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Microbiology: cdiff negative
   CXR: increased RLL
   Assessment and Plan
   80yoF with suspected urosespsis and respiratory failure in setting of
   airway protection and possible aspiration.
   1.       Respiratory failure:  Secretions improved, CXR does have
   increased RLL/bilateral infiltrates, and low-grade fever.
   - SBT now, plan to extubate if she does well
   - Lasix 20mg x 1 to assist with diuresis, TBB negative 500-1L today
   - Check sputum culture; low-threshold to initiate antibiotics
   2.       Urosepsis:  hypotension resolved
   - no current evidence of shock; off pressors for two days
   - Evidence of adrenal insufficiency with [**Last Name (un) **] stim; tapering prednisone
   - Continue ceftriaxone
   3.       HIT+:
   - continue argatroban
   - Heme following; await serotonin release assay
   4.       Hypernatremia:
   - D5W for free water repletion
   ICU Care
   Nutrition:   Tube feeds held, will restart if unable to extubate..  NGT
   prior to extubation, will need speech evaluation.
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT:  Argatroban
   Stress ulcer:  PPI
   VAP: HOB/RSBI/Awakening/mouthcare
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Hemodynamics much improved overnight and also tolerating her SBT.
   T 37.9   P 50  BP 131/53    RR 14  Sat:  100%
   Awake, vented
   CTA bilaterally
   S1 S2 reg
   Soft NT ND
   No edema
   Assessment:
   1)       Acute Respiratory Failure
   2)       Urosepsis
   3)       HIT antibody positive
   Plan:
   1)       Extubate
   2)       Continue antibiotics
   3)       Stop agatroban, heme following, awaiting confirmation test of
   HIT antibodies
 I suspect this is a false-positive and
   thrombocytopenia was secondary to sepsis
   Time Spent: 35 minutes
   Patient is critically Ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2187-1-17**] 07:31 PM ------

2187-01-18 07:28:00 Physician Resident Progress Note
Chief Complaint: Urosepsis
   24 Hour Events:
   Extubated
   Diuresed nicely with 20mg IV lasix
   S&S said NPO for now, will re-eval in am, baseline diet is honey thick
   and pureed.
   Grew amp sensitive enterococcus out of urine, started on ampicillin x 3
   days
   Heme said ok to stop argatroban. Pneumoboots for now. They will figure
   out some plan for DVT prophylaxis with something (argatroban or
   lepirudin). Smear with some signs of MDS.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2187-1-15**] 08:00 AM
   Ceftriaxone - [**2187-1-17**] 12:24 PM
   Ampicillin - [**2187-1-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-1-17**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, sob, n/v, anxiety
   Flowsheet Data as of  [**2187-1-18**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 61 (50 - 75) bpm
   BP: 155/66(103) {116/45(75) - 170/78(118)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 60 kg
   Height: 63 Inch
    CVP: 13 (4 - 13)mmHg
   Total In:
                                                                  2,821 mL
                                                                    529 mL
   PO:
   TF:
                                                                     50 mL
                                                                    184 mL
   IVF:
                                                                  2,591 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  4,585 mL
                                                                    760 mL
   Urine:
                                                                  4,585 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,764 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 276 (276 - 293) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: No acute distress, Sitting upright in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, 2/6 SEM, no rubs or gallops
   Peripheral Vascular:
   Respiratory / Chest: wheezing bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Labs / Radiology
   127 K/uL
   9.4 g/dL
   102 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   25 mg/dL
   112 mEq/L
   148 mEq/L
   28.9 %
   13.0 K/uL
        [image002.jpg]
                            [**2187-1-15**]  05:13 AM
                            [**2187-1-15**]  10:25 AM
                            [**2187-1-15**]  02:39 PM
                            [**2187-1-16**]  01:51 AM
                            [**2187-1-16**]  06:10 AM
                            [**2187-1-16**]  07:51 AM
                            [**2187-1-16**]  05:36 PM
                            [**2187-1-17**]  03:57 AM
                            [**2187-1-17**]  02:21 PM
                            [**2187-1-18**]  03:47 AM
   WBC
   10.5
   9.9
   11.3
   11.9
   13.0
   Hct
   21.9
   27.3
   28.0
   27.9
   27.3
   28.9
   Plt
   64
   96
   104
   108
   127
   Cr
   1.3
   1.4
   1.3
   1.0
   0.9
   TCO2
   22
   22
   25
   Glucose
   151
   170
   66
   102
   Other labs: PT / PTT / INR:12.0/26.7/1.0, CK / CKMB /
   Troponin-T:24//0.04, ALT / AST:22/7, Alk Phos / T Bili:191/0.2,
   Differential-Neuts:84.5 %, Band:0.0 %, Lymph:9.5 %, Mono:5.2 %, Eos:0.6
   %, Fibrinogen:673 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL,
   LDH:203 IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
PROVIDENCIA STUARTII.    >100,000 ORGANISMS/ML..
         GENTAMICIN & TOBRAMYCIN sensitivity testing performed by [**First Name8 (NamePattern2) 6154**]
         [**Last Name (NamePattern1) 4737**].
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PROVIDENCIA STUARTII
                             |          ENTEROCOCCUS SP.
                             |          |
AMIKACIN--------------   <=2 S
AMPICILLIN------------              <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------       S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R     <=16 S
PIPERACILLIN/TAZO-----     8 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------       S
TRIMETHOPRIM/SULFA----     8 R
VANCOMYCIN------------              <=1 S
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 HEPARIN-INDUCED THROMBOCYTOPENIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPOTENSION (NOT SHOCK)
 BRADYCARDIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   80 year old female with hx of DM2, HTN, dementia and frequent UTIs
   presents with altered mental status, hypotension, and bradycardia and
   found to have urosepsis and thrombocytopenia
   #.  Sepsis: BP stable since 2 U PRBC administered several days ago. Now
   growing ampicillin enterococcus from the urine and  PROVIDENCIA
   STUARTII growing in blood. Patient borderline febrile yesterday with
   possible opacity in right lobe. Afebrile, but leukocytosis worse today.
   Given her age, it is possible she may not develop a fever and CXR could
   be demonstrating an early infiltrate and patient could be at risk for
   VAP
   - follow up sputum culture
   - Con
t  ceftriaxone for 14 day course from [**1-12**] for Providencia, and
   3 day course of ampicillin from [**1-18**] for Entercoccus
   - If [**Last Name (LF) 3708**], [**First Name3 (LF) 116**] broaden to VAP coverage
   - d/c Stress dose steroids today
   -  request for PICC line today
   # Hypernatremia: Na back up to 148 from 143 yesterday after 1.5 L of
   D5W. Free water deficity approximately 1 L. Several litres negative
   since admission. Likely hypovolemic, but total body volume overloaded.
   I anticipate this will improve now that patient is extubated and
   eating/drinking.
   - D5W  1 L
   - repeat Na this afternoon
   # Acute renal failure: Likely has ATN from hypotension, renal function
   continues to improve. Total body overloaded.
   -Renally dose meds
   -Monitor I/O in setting of post ATN diuresis with goal negative 1 L.
   Lasix 20 mg IV x1 if needed to get to goal.
   # Anemia, thrombocytopenia: [**Month (only) 11**] be bone marrow suppression due to
   infection. No signs of hemolysis on current labs. DIC labs negative.
   HIT ab positive, but heme feels low suspicion of actualy HIT. She is
   intermediate probability and has no obvious sequelae from HIT.
   Serotonin release assay pending. Argatroban stopped yseterday and
   platelets continue to improve.
   - f/u Hematology recs
   - follow seratonic release assay
   - Hold heparin products for now
    # Elevated PTT/INR: Improve now that argatroban off.
   # Sinus Bradycardia:  EKG shows mild 1
 degree AV block, may be in
   setting of illness. Rate now improved.  Was on metoprolol at baseline.
   Cardiac markers negative.; EKG without ischemia. TTE with reduced
   global function but no focal WMA
   - hold rate control agents
   # Respiratory Failure: Now extubated doing well on 4 L oxygen .
   - I/O goal as above
   - wean oxygen as tolerated
   - Plan to extbuate this morning
   - follow up S and S consult post extubation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2187-1-17**] 10:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-1-12**] 02:54 AM
   Arterial Line - [**2187-1-12**] 03:28 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, did well and no new problems.  Remains extubated
   Anbx: ceftriaxone, ampicillin
   T 36  P 60  BP 152/70  Sat: 99% room air
   Awake, alert NAD
   Chest: bilateral wheeze
   Abd: soft NT ND
   Ext: No edema
   Assessment:
   1) Urosepsis - improved
   2) Acute Respiratory Failure - extubated and saturating 99% on room air
   now with some mild expiratory wheeze
   3) ? HIT - heme following and confirmatory test pending
   Plan:
   1) Continue antibiotics - if she were to develop fever or increased
   WBC, would switch to Cefepime/Vancomycin as there was a slight increase
   in infiltrate on CXR and could be developing pneumonia. Those
   antibiotics would cover all of the urinary pathogens that have grown
   plus VAP
   2) Albuterol/atrovent
   3) PICC line and remove central line
   4) Discontinue arterial line and NG tube
   5) Hold heparin products
   6) Transfer to the floor
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2187-1-18**] 12:17 ------